US06645774B1
A solution of 2,4-dichloro-quinazoline (15 g), N,N-diisopropyl-ethylamine (24.9 ml) and aniline (7.5 ml) in isopropanol (75 ml) is heated to reflux for 45 min. The cold reaction mixture is filtered and the filtrate is concentrated in vacuo. The residue is crystallized from diethylether-toluene (1:1) to give 2-chloro-4-phenyl-amino-quinazoline, m.p. 194-196° C.

reactant | 2,4-dichloro-quinazoline | 15 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | N,N-diisopropyl-ethylamine | 24.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | aniline | 7.5 ml | NC1=CC=CC=C1 | C6H7N
solvent | isopropanol | 75 ml | C(C)(C)O | C3H8O
product | 2-chloro-4-phenyl-amino-quinazoline | ClC1=NC2=CC=CC(=C2C(=N1)C1=CC=CC=C1)N | C14H10ClN3
